US05344975
A mixture of 40 g of p-toluenesulfonic acid monohydrate and 313 g of diethyl butylmethylmalonate was heated to 125°-135° C. in a flask equipped with a distillation column packed with Raschig rings. After 15 minutes, ethanol began to reflux in the distillation head. Ethanol was distilled as it formed and the pot temperature was maintained at 120°-126° C. by periodic addition of water to the pot. After 22 hours, the distillation of ethanol had ceased. The mixture then was cooled and treated with 70 ml of water. The layers were separated to afford 159.2 g (90.6% yield) of 2-methylhexanoic acid (99.8% pure by VPC).

reactant | p-toluenesulfonic acid monohydrate | 40 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | diethyl butylmethylmalonate | 313 g | C(CCC)C(C(=O)OCC)(C(=O)OCC)C | C12H22O4
reactant | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-methylhexanoic acid | 159.2 g, 90.6% yield | CC(C(=O)O)CCCC | C7H14O2
